US05096919
A mixture of 21.4 g of methyl 4-aminocinnamate and 50 g of acetonylacetone in 500 ml of toluene is heated under reflux using a Dean Stark water separator for 16 hours. The solution is washed with ice cold dilute hydrochloric acid, brine, and then dried over magnesium sulfate. The organic phase is filtered through silica gel, evaporated at 60° under reduced pressure and the residue is crystallized from hexane to yield methyl 4-(2,5-dimethyl-1H-pyrrol-1-yl)-cinnamate, m.p. 73°-75°. A solution of the ester in 150 ml of methanol and 100 ml 1N aqueous sodium hydroxide is stirred at room temperature for 16 hours. Methanol is evaporated at 60° under reduced pressure. The basic solution is washed with ethyl acetate, then made acidic with ice cold 5N aqueous hydroxhloric acid, and extracted with ethyl acetate. The extract is washed with brine, dried over magnesium sulfate, treated with charcoal, and evaporated to dryness at 60° under reduced pressure. The residue is crystallized from ether/hexane (2:1) to yield (E)-4-(2,5-di-methyl-1H-pyrrol-1-yl)-cinnamic acid, m.p. 189°-191°, also named (E)-3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-2-propenoic acid.

reactant | methyl 4-aminocinnamate | 21.4 g | NC1=CC=C(C=CC(=O)OC)C=C1 | C10H11NO2
reactant | acetonylacetone | 50 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(2,5-dimethyl-1H-pyrrol-1-yl)-cinnamate | CC=1N(C(=CC1)C)C1=CC=C(C=CC(=O)OC)C=C1 | C16H17NO2
